US08022206B2
4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-N-ethyl-3,6-dihydropyridine-1(2H)-carboxamide
A mixture of 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydro-pyridin-4-yl)furo[3,2-c]pyridin-6-ylamine (10.0 mg, 0.0237 mmol), ethyl isocyanate (0.00310 g, 0.0436 mmol), DIPEA (0.033 mL, 0.19 mmol) in DMF (1 mL) was stirred at rt for 15 min. Purification by HPLC afforded the title compound as a colorless solid. 1H NMR (400 MHz, CD3OD): δ=1.13 (t, J=7.2 Hz, 3H), 1.87 (d, J=6.8 Hz, 3H), 2.48 (br. s., 2H), 3.22 (q, J=7.1 Hz, 2H), 3.62 (t, J=5.8 Hz, 2H), 4.06 (d, J=2.5 Hz, 2H), 6.25 (br. s., 1H), 6.43-6.56 (m, 1H), 7.21 (t, J=8.7 Hz, 1H), 7.39 (dd, J=9.0, 4.9 Hz, 1H), 7.65 (s, 1H), 8.16 (s, 1H). MS (ES+): m/z 493.02/495.04 (100/68) [MH+]. HPLC: tR=2.95 min (ZQ3, polar—5 min).

reactant | 7-[(R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]-3-(1,2,3,6-tetrahydro-pyridin-4-yl)furo[3,2-c]pyridin-6-ylamine | 0.0237 mmol, 10.0 mg | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C2=C(C=NC1N)C(=CO2)C=2CCNCC2 | C20H18Cl2FN3O2
reactant | ethyl isocyanate | 0.0436 mmol, 0.00310 g | C(C)N=C=O | C3H5NO
reactant | DIPEA | 0.19 mmol, 0.033 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-{6-Amino-7-[(1R)-1-(2,6-dichloro-3-fluorophenyl)ethoxy]furo[3,2-c]pyridin-3-yl}-N-ethyl-3,6-dihydropyridine-1(2H)-carboxamide | NC1=C(C2=C(C=N1)C(=CO2)C=2CCN(CC2)C(=O)NCC)O[C@H](C)C2=C(C(=CC=C2Cl)F)Cl | C23H23Cl2FN4O3
